US08232294B2
Step 9) 1-((4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)methyl)cyclopropyl 2-aminoacetate hydrochloride
The compound 1-((4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)methyl)cyclopropyl 2-(tert-butoxycarbonylamino)acetate (80 mg, 0.112 mmol) was dissolved in ethyl acetate (8 mL). 2 mL of HCl in ethyl acetate (0.93 mol/L) was added dropwise and the reaction was stirred at rt for 30 minute. The solid was collected by filtration and washed with ethyl acetate (10 mL×2) to afford the title compound as a white solid (11 mg, 15%).

reactant | 1-((4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)methyl)cyclopropyl 2-(tert-butoxycarbonylamino)acetate | 0.112 mmol, 80 mg | C(C)(C)(C)OC(=O)NCC(=O)OC1(CC1)COC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C38H38FN5O8
reactant | HCl | 2 mL | Cl | ClH
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.93 mol/L | C(C)(=O)OCC | C4H8O2
product | 1-((4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)methyl)cyclopropyl 2-aminoacetate hydrochloride | 11 mg, 15% | Cl.NCC(=O)OC1(CC1)COC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | InChI=1S/C33H30FN5O6.ClH/c1-20-30(32(42)39(38(20)2)22-6-4-3-5-7-22)31(41)37-21-8-11-28(25(34)16-21)44-27-12-15-36-26-17-23(9-10-24(26)27)43-19-33(13-14-33)45-29(40)18-35;/h3-12,15-17H,13-14,18-19,35H2,1-2H3,(H,37,41);1H
